US07705018B2
Prepared according to Procedure H using 8-chloro-3-(chloromethyl)-2-(2-chloro-phenyl)quinoline (0.035 g, 0.11 mmol), 4,6-diaminopyrimidine hydrochloride (0.032 g, 0.22 mmol, 2 eq) and DIEA (0.55 mL, 2.2 mmol, 20 eq) in ethanol (1 mL). N4-((8-Chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)pyrimidine-4,6-diamine [PI3Kδ IC50=6868 nM] was obtained after purification as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.32 (1H, s), 8.05 (1H, dd, J=8.4, 1.0 Hz), 7.95 (1H, dd, J=7.4, 1.2 Hz), 7.84 (1H, s), 7.51-7.67 (5H, m), 7.24 (1H, s), 6.19 (2H, s), 5.32 (1H, s), 4.33 (1H, s) Mass Spectrum (ESI) m/e=396.1 and 398.0 (M+1)

reactant | 8-chloro-3-(chloromethyl)-2-(2-chloro-phenyl)quinoline | 0.11 mmol, 0.035 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CCl | C16H10Cl3N
reactant | 4,6-diaminopyrimidine hydrochloride | 0.22 mmol, 0.032 g, 2 eq | Cl.NC1=NC=NC(=C1)N
reactant | DIEA | 2.2 mmol, 0.55 mL, 20 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | N4-((8-Chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)pyrimidine-4,6-diamine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CNC1=NC=NC(=C1)N | C20H15Cl2N5
